US08053447B2
To a stirred solution of 2-(4-hydroxycyclohexyl)isoindole-1,3-dione (8.0 g, 32.6 mmol) in dry THF (100 mL) was added triphenyl phosphine (12.8 g, 48.8 mmol) and 4-hydroxy benzoic acid ethyl ester (5.44 g, 32.7 mmol). The reaction mixture was cooled to 0° C. and DIAD (9.6 g, 47.4 mmol) was added dropwise from an addition funnel over a period of 3 h. The reaction was gradually brought to room temperature and stirring continued for 3 h. The solvent was removed under vacuum and ether (100 mL) was added and cooled to 0° C. The solid formed was filtered and the clear filtrate concentrated and purified by column chromatography over neutral alumina (8% AcOEt in hexane) to give 5.13 g (42%) of 4-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-cyclohexyloxy]-benzoic acid ethyl ester.

reactant | 2-(4-hydroxycyclohexyl)isoindole-1,3-dione | 32.6 mmol, 8.0 g | OC1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
reactant | triphenyl phosphine | 48.8 mmol, 12.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxy benzoic acid ethyl ester | 32.7 mmol, 5.44 g | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | DIAD | 47.4 mmol, 9.6 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-cyclohexyloxy]-benzoic acid ethyl ester | 5.13 g, 42% | C(C)OC(C1=CC=C(C=C1)OC1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O)=O | C23H23NO5
